US06121322
Diethyl 2-amino-6-{[(N-methylamino)-carbonyloxy-carbamoyl]-methyl}-azulene-1,3-dicarboxylate
A mixture of 0.2 g (0.55 mmol) of diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate, 5 ml of dimethyl sulphoxide and 35 □l (0.6 mmol) of methyl isocyanate is stirred at room temperature for 18 hours. Thereafter, the mixture is diluted with water, extracted with dichloromethane and the extract is chromatographed on silica gel. Elution with ethyl acetate gives 60 mg (36% of theory) of the title compound of m.p. 222-224° C.

reactant | diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate | 0.55 mmol, 0.2 g | NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NO)=O)C(=O)OCC | C18H20N2O6
reactant | dimethyl sulphoxide | 5 ml | CS(=O)C | C2H6OS
reactant | methyl isocyanate | 0.6 mmol | CN=C=O | C2H3NO
solvent | water | O | H2O
product | Diethyl 2-amino-6-{[(N-methylamino)-carbonyloxy-carbamoyl]-methyl}-azulene-1,3-dicarboxylate | NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NOC(=O)NC)=O)C(=O)OCC | C20H23N3O7
